US07265148B2
Ethyl 1-(1,1′-biphenyl-4-ylmethyl)-5-nitro-3-phenyl-1H-indole-2-carboxylate was prepared from ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate and 4-bromomethylbiphenyl according to the procedure of Example 1 Step 1 as a yellowish solid: 1H NMR (DMSO-d6) δ 0.95 (t, J=7.0 Hz, 3 H), 4.13 (q, J=7.0 Hz, 2 H), 5.96 (s, 2 H), 7.30-7.32 (m, 14 H), 7.62 (d, J=2.3 Hz, 1 H), 8.25 (d, J=2.8 Hz, 1 H), 8.36 (s, 1 H); MS (ESI) m.z 477 (MH+); HRMS calcd for C30H25N2O4: 477.1815; found (ESI+): 477.1806; Anal. calcd for C30H24N2O4: C, 75.62; H, 5.08; N, 5.88. Found: C, 75.25; H, 5.18; N, 5.47.

reactant | ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate | [N+](=O)([O-])C=1C=C2C(=C(NC2=CC1)C(=O)OCC)C1=CC=CC=C1 | C17H14N2O4
reactant | 4-bromomethylbiphenyl | BrCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Br
product | Ethyl 1-(1,1′-biphenyl-4-ylmethyl)-5-nitro-3-phenyl-1H-indole-2-carboxylate | C1(=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C30H24N2O4
